US06903126B2
e) 6-[[1-(4-Methylphenyl)-2-propylmercapto-1H-benzimidazol-6-yl]oxy]hexanoic acid methyl ester
1 g of 6-[[2-mercapto-1-(4-methylphenyl)-1H-benzimidazol-6-yl]oxy]hexanoic acid methyl ester was dissolved in 15 ml of N,N-dimethylformamide, mixed with 0.3 ml of propyl iodide, 0.55 g of potassium hydrogen carbonate and 97 mg of dicyclohexano-18-crown-6, and the mixture was stirred for 48 hours at 20° C. It was filtered, and the filtrate was concentrated by evaporation in a vacuum. The residue was purified by column chromatography on silica gel. 1.06 g was obtained.

reactant | 6-[[2-mercapto-1-(4-methylphenyl)-1H-benzimidazol-6-yl]oxy]hexanoic acid methyl ester | 1 g | COC(CCCCCOC=1C=CC2=C(N(C(=N2)S)C2=CC=C(C=C2)C)C1)=O | C21H24N2O3S
reactant | propyl iodide | 0.3 ml | C(CC)I | C3H7I
reactant | potassium hydrogen carbonate | 0.55 g | C(O)([O-])=O.[K+]
reactant | dicyclohexano-18-crown-6 | 97 mg | C1CCC2C(C1)OCCOCCOC3CCCCC3OCCOCCO2 | C20H36O6
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 6-[[1-(4-Methylphenyl)-2-propylmercapto-1H-benzimidazol-6-yl]oxy]hexanoic acid methyl ester | COC(CCCCCOC=1C=CC2=C(N(C(=N2)SCCC)C2=CC=C(C=C2)C)C1)=O | C24H30N2O3S
